US04597902
N-(1-Methylethyl)-N'-[2-[methyl(phenylmethyl)amino]ethyl]-N-[2-(phenylsulfonyl)ethyl]urea
A solution of 17.90 g (0.045 mole) of N-methyl-N-(phenylmethyl)-1,2-ethanediamine and 1,1'-carbonyldiimidazole (0.05 mole) in 100 ml of tetrahydrofuran was stirred at room temperature for 1 hour. To the mixture was added 10.52 g, (0.04 mole) of 1-methyl-N-[2-(phenylsulfonyl)ethyl]ethanamine and the resulting solution heated overnight at gentle reflux. The reaction mixture was stripped to dryness and partitioned between chloroform and water; removal of chloroform gave a dark brown oil. The oil was dissolved in chloroform and extracted with 1N sulfuric acid (saturated with sodium chloride). The acidic layer was made alkaline, extracted with chloroform, and the solvent removed to give a light brown oil. The oil was subjected to chromatography on a Florisil column and eluted with methanol-methylene chloride. After combining appropriate fractions from the column and removing solvent, an oil was obtained. The oil was triturated with diethyl ether and dried at 80° C. in vacuo overnight. This furnished 6.75 g (40.4%) of clear oil.

reactant | N-methyl-N-(phenylmethyl)-1,2-ethanediamine | 0.045 mole, 17.90 g | CN(CCN)CC1=CC=CC=C1 | C10H16N2
reactant | 1,1'-carbonyldiimidazole | 0.05 mole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-methyl-N-[2-(phenylsulfonyl)ethyl]ethanamine | 0.04 mole | CC(C)NCCS(=O)(=O)C1=CC=CC=C1 | C11H17NO2S
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(1-Methylethyl)-N'-[2-[methyl(phenylmethyl)amino]ethyl]-N-[2-(phenylsulfonyl)ethyl]urea | CC(C)N(C(=O)NCCN(CC1=CC=CC=C1)C)CCS(=O)(=O)C1=CC=CC=C1 | C22H31N3O3S
